US05409930
A solution of 502 mg (2.05 mmol) of 2-methoxy-5-(2,5-dimethoxyphenyl)pyridine in 20 mL of 48% hydrobromic acid (aqueous) is refluxed for 6 hours, cooled to ca. 25° C. and diluted with 150 mL of water. The mixture is neutralized with solid NaHCO3, cooled to 0° C. and the resulting solid product collected by filtration. The solid is washed well with water, collected by centrifugation, then further purified by recrystalization in methanol to obtain 5-(2,5-dihydroxyphenyl)-2(1H)-pyridone (m.p. 303°-306° C. dec).

reactant | 2-methoxy-5-(2,5-dimethoxyphenyl)pyridine | 2.05 mmol, 502 mg | COC1=NC=C(C=C1)C1=C(C=CC(=C1)OC)OC | C14H15NO3
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | hydrobromic acid | 20 mL | Br | BrH
solvent | water | 150 mL | O | H2O
product | 5-(2,5-dihydroxyphenyl)-2(1H)-pyridone | OC1=C(C=C(C=C1)O)C=1C=CC(NC1)=O | C11H9NO3
